US08685970B2
To a stirred solution of ethyl 6-(tert-butoxycarbonylamino)picolinate (11.0 g, 33 mmol) in THF (120 mL) under nitrogen was added LiAlH4 (3.80 g, 100 mmol) in THF (60 mL) over a period of 30 min at 0° C. The reaction mixture was stirred at 0° C. for 6 h and carefully quenched by the addition of water (2.0 mL) and 10% NaOH solution (4.0 mL) at 0° C. The reaction mixture was filtered and the filtrate was dried (Na2SO4) and concentrated under reduced pressure. The resulting residue purified by chromatography (1:1 petroleum ether:ethyl acetate) to afford tert-butyl 6-(hydroxymethyl)pyridin-2-ylcarbamate (3.0 g, 41%).

reactant | ethyl 6-(tert-butoxycarbonylamino)picolinate | 33 mmol, 11.0 g | C(C)(C)(C)OC(=O)NC1=CC=CC(=N1)C(=O)OCC | C13H18N2O4
reactant | LiAlH4 | 100 mmol, 3.80 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-(hydroxymethyl)pyridin-2-ylcarbamate | 3.0 g, 41% | OCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C11H16N2O3
